US03950333
Sodium (13.5 g.) was added over 3 hours to propane-1,3-diol (450 ml.) under nitrogen at 70° with stirring. This solution was added over 20 minutes to a stirred solution of 4-chloromethylimidazole hydrochloride (50.0 g.) under nitrogen at 40°-60°. Subsequent heating at 60°-65° for 3 hours followed by overnight cooling, filtration and concentration gave 4-(3-hydroxypropoxy)methylimidazole. Subsequent reaction with thionyl chloride gave 4-(3-chloropropoxy)methylimidazole hydrochloride (38.3 g.).

reactant | Sodium | 13.5 g | [Na] | Na
reactant | 4-chloromethylimidazole hydrochloride | 50.0 g | Cl.ClCC=1N=CNC1
reactant | propane-1,3-diol | 450 ml | C(CCO)O | C3H8O2
product | 4-(3-hydroxypropoxy)methylimidazole | OCCCOCC=1N=CNC1 | C7H12N2O2
